US05847155
(S)-1-(Phenoxybenzoyl)-2-pyrrolidinemethanol
2.14 g (10 mmol) of 2-phenoxybenzoic acid, 1.35 g (10 mmol) of 1-hydroxybenzotriazole hydrate, 2.0 ml (20 mmol) of A and 1.92 g (10 mmol) 1-ethyl-3-(3-dimethyl-aminopropyl)carbodiimide HCl were reacted as described in Example 25, except that a water soluble carbodiimide was used in place of DCC. The title compound was obtained in pure form as a colorless gum without chromatographic purification and the yield was 2.90 g (98%). TLC (90:10/CH2Cl2 :MeOH):Rf =0.80. 1H NMR (CDCl3) δ: 6.80-7.45 (m,9H); 4.60-4.95(m,1H); 3.30-3.80(m,4H); 1.50-2.20(m,4H).

reactant | 2-phenoxybenzoic acid | 10 mmol, 2.14 g | O(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O3
reactant | 1-hydroxybenzotriazole hydrate | 10 mmol, 1.35 g | O.ON1N=NC2=C1C=CC=C2
reactant | water soluble carbodiimide | CCN=C=NCCCN(C)C.Cl
product | (S)-1-(Phenoxybenzoyl)-2-pyrrolidinemethanol | O(C1=CC=CC=C1)C1=C(C(=O)N2[C@@H](CCC2)CO)C=CC=C1 | C18H19NO3
